US06448281B1
To a solution of 3-amino-L-tyrosine.2HCl.H2O (2.50 g, 8.8 mmol) in 0.5 N HCl (28 mL) at 0° C., an aqueous solution of NaNO2 (0.724 g, 10.5 mmol, in 10 mL H2O) was added slowly. The reaction mixture was stirred for 10 min at 0° C., in the dark, and then a solution of NaN3 (1.43 g, 21.9 mmol, in 10 mL H2O) was added and stirring was continued for 1 h at 0° C. The white solid formed was filtered and dried to give (S)-2-amino-3-(3-azido-4-hydroxy-phenyl)-propionic acid (1.16 g) as of a beige solid. This amino acid was coupled to the carboxylic acid of example 2 in the usual manner to give the title compound of example 146 after purification by preparative C18 reversed-phase HPLC.

reactant | 3-amino-L-tyrosine | NC=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H12N2O3
reactant | H2O | 8.8 mmol, 2.50 g | O | H2O
reactant | NaNO2 | 10.5 mmol, 10 mL, 0.724 g | N(=O)[O-].[Na+]
reactant | NaN3 | 21.9 mmol, 10 mL, 1.43 g | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 0.5 N, 28 mL | Cl | ClH
product | (S)-2-amino-3-(3-azido-4-hydroxy-phenyl)-propionic acid | 1.16 g | N[C@H](C(=O)O)CC1=CC(=C(C=C1)O)N=[N+]=[N-] | C9H10N4O3
